*---------- DMN65D8L Spice Model ----------
.SUBCKT DMN65D8L 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 2.175 
RS 30 3 0.001 
RG 20 2 79.9 
DESD1 2 5 DESD 
DESD2 3 5 DESD 
CGS 2 3 2.011E-011 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 5.9E-011 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.0001583 VTO = 1.595 
+ TOX = 6E-008 NSUB = 1E+016 KP = 0.58 U0 = 400 KAPPA = 4.069 
.MODEL DCGD D CJO = 1.646E-011 VJ = 0.1277 M = 0.4 
.MODEL DSUB D IS = 4.551E-009 N = 1.836 RS = 0.1357 
+ CJO = 2.877E-012 VJ = 1.307E-009 M = 0.03355 
.MODEL DLIM D IS = 0.0001 
.MODEL DESD D IS = 1.223E-008 N = 54.79 BV = 5.385 
.ENDS
*Diodes DMN65D8L Spice Model v1.0 Last Revised 2012/7/23