*********************************************************************
*  (C)  Copyright 2017 Toshiba Electronic Devices & Storage Corporation
*  Date:                19/09/2017
*  File Name:           T2N7002AK.lib
*  Part Number:         T2N7002AK
*  Parameter Ver.:      Ver.1
*  Simulator:           PSpice
*  Model Call Name:     NMOS_T2N7002AK
*  TNOM:                25 degree
*  Pin Assign:          1=Drain 2=Gate 3=Source
*
* Operation of this model has been verified only on the OrCAD.
*********************************************************************
.SUBCKT T2N7002AK 1 2 3
M0 1 22 3 3 T2N7002AK_MOS
+ L = 5E-006
+ W = 0.002538
+ AD = 2.538E-009
+ AS = 2.538E-009
+ PD = 0.005078
+ PS = 0.005078
D0 3 1 T2N7002AK_DDS1
D1 3 1 T2N7002AK_DDS2
D2 22 10 T2N7002AK_DGS1
D3 3 10 T2N7002AK_DGS2
R1 10 3 1E+009
R2 10 22 1E+009
RG 2 22 70
.MODEL T2N7002AK_MOS NMOS(
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 1.715
+ VOFF = -0.084
+ NFACTOR = 5.916
+ U0 = 9327
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 2.25E-009
+ UB = 5.87E-019
+ UC = -4.56E-011
+ VSAT = 1.341E+005
+ A0 = 3.989
+ AGS = 1.088
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 0.7418
+ DELTA = 0.11
+ RDSW = 6100
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 0.00024
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 1.3
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.06281
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-012
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 1.106E-007
+ CGDO = 2.623E-008
+ CGBO = 0
+ CGDL = 1E-011
+ CGSL = 1.507E-007
+ CKAPPA = 0.3646
+ CF = 1E-012
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 1E-012
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.5
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = 1
+ KT1 = -1
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 1E-009
+ UB1 = 1E-017
+ UC1 = -5.6E-011
+ AT = 3.3E+004
+ PRT = 1.209E+004
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.0012)
.MODEL T2N7002AK_DDS1 D(
+ TNOM = 25
+ IS = 5.89E-012
+ RS = 0.7
+ N = 1.355
+ CJO = 4.583E-012
+ VJ = 1.296
+ M = 0.6961
+ BV = 60
+ XTI = 4.5)
.MODEL T2N7002AK_DDS2 D(
+ TNOM = 25
+ IS = 5.89E-012
+ RS = 0.7
+ N = 1.355
+ CJO = 4.583E-012
+ VJ = 1.296
+ M = 0.6961
+ XTI = 4.5)
.MODEL T2N7002AK_DGS1 D(
+ TNOM = 25
+ IS = 1E-014)
.MODEL T2N7002AK_DGS2 D(
+ TNOM = 25
+ IS = 1E-014)
.ENDS
